US04840945
Preparation of (6R,7R)-7-[2-(2-triphenylmethylamino-4-thiazolyl)-2-[Z-(4,5-diacetoxy-2-methylbenzoyl)oxyimino]acetamido]-3-[(2-diphenylmethyloxycarbonyl-5-methyl-s-triazolo[1,5-a]-pyrimidin-7-yl)thiomethyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid diphenylmethyl ester.
To an ice-cooled solution of (6R,7R)-7-[2-(2- triphenylmethylamino-4-thiazolyl)-2-(Z-hydroxyimino)acetamido]-3-[(2-diphenylmethyloxycarbonyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-8-oxo-5 -thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid diphenylmethyl ester (0.7 g) in dry dichloromethane (10 ml) was added 4,5-diacetoxy-2-methylbenzoyl chloride (0.19 g) at once and then potassium carbonate (0.083 g). The yellow suspension was stirred at 0° C. for 30 minutes, the insoluble matters were removed by filtration, and the filtrate was washed with brine and dried over anhydrous sodium sulfate. The dried solution was concentrated under reduced pressure, and the residue was crystallized with ether (20 ml), giving 0.80 g of the objective compound as pale yellow crystals.

reactant | (6R,7R)-7-[2-(2- triphenylmethylamino-4-thiazolyl)-2-(Z-hydroxyimino)acetamido]-3-[(2-diphenylmethyloxycarbonyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-8-oxo-5 -thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid diphenylmethyl ester | 0.7 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2SCC1CSC1=CC(=NC=2N1N=C(N2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C)NC(\C(=N/O)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C65H51N9O7S3
reactant | 4,5-diacetoxy-2-methylbenzoyl chloride | 0.19 g | C(C)(=O)OC1=CC(=C(C(=O)Cl)C=C1OC(C)=O)C | C12H11ClO5
reactant | potassium carbonate | 0.083 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (6R,7R)-7-[2-(2-triphenylmethylamino-4-thiazolyl)-2-[Z-(4,5-diacetoxy-2-methylbenzoyl)oxyimino]acetamido]-3-[(2-diphenylmethyloxycarbonyl-5-methyl-s-triazolo[1,5-a]-pyrimidin-7-yl)thiomethyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid diphenylmethyl ester | 0.80 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2SCC1CSC1=CC(=NC=2N1N=C(N2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C)NC(\C(=N/OC(C2=C(C=C(C(=C2)OC(C)=O)OC(C)=O)C)=O)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C77H61N9O12S3
